US08420655B2
To a suspension of 2-[5-(2-amino-pyrimidin-5-yl)-1-tert-butyl-1H-benzimidazol-2-yl]-N-hydroxy-benzamidine (440 mg, 1.10 mmol) in toluene (20 mL) at room temperature is added trichloroacetic anhydride (0.24 mL, 1.32 mmol). The reaction mixture is stirred at 80° C. for 2 h. The reaction mixture is cooled to room temperature. EtOAc is added and the organics are washed sequentially with saturated NaHCO3 (30 mL) solution and H2O (30 mL) then dried (Na2SO4), filtered and concentrated to afford 5-{1-tert-butyl-2-[2-(5-trichloromethyl-[1,2,4]oxadiazol-3-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine (0.39 g, 67%)

reactant | 2-[5-(2-amino-pyrimidin-5-yl)-1-tert-butyl-1H-benzimidazol-2-yl]-N-hydroxy-benzamidine | 1.10 mmol, 440 mg | NC1=NC=C(C=N1)C1=CC2=C(N(C(=N2)C2=C(C(=N)NO)C=CC=C2)C(C)(C)C)C=C1 | C22H23N7O
reactant | trichloroacetic anhydride | 1.32 mmol, 0.24 mL | ClC(C(=O)OC(C(Cl)(Cl)Cl)=O)(Cl)Cl | C4Cl6O3
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 5-{1-tert-butyl-2-[2-(5-trichloromethyl-[1,2,4]oxadiazol-3-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine | 0.39 g, 67% | C(C)(C)(C)N1C(=NC2=C1C=CC(=C2)C=2C=NC(=NC2)N)C2=C(C=CC=C2)C2=NOC(=N2)C(Cl)(Cl)Cl | C24H20Cl3N7O
